US05328919
Ethyl 3-amino-2-[(2'-cyanobiphenyl-4yl) methyl]aminobenzoate
To a solution of ethyl 2-[(2'cyanobiphenyl-4-yl]-methyl]amino-3-nitrobenzoate (10.4 g) in ethanol (50 ml) was added stannous dichloride dihydrate (28.1 g) and the mixture was stirred at 80° C for two hours. The solvent was evaporated to dryness. To the ice-cooling mixture of the residue in ethyl acetate (300 ml) was added dropwise 2N NaOH (500 ml) with stirring. The aqueous layer was extracted with ethyl acetate (200 ml×2). The organic layers were combined, washed with water, and dried. The solvent was evaporated to dryness and the residue was purified by column chromatography on silica gel to give crystals. Recrystallization from ethyl acetate-hexane gave colorless crystals (7.3 g, 79%), m.p. 104°-105° C.

reactant | ethyl 2-[(2'cyanobiphenyl-4-yl]-methyl]amino-3-nitrobenzoate | 10.4 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=C(C(=O)OCC)C=CC=C1[N+](=O)[O-] | C23H19N3O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 3-amino-2-[(2'-cyanobiphenyl-4yl) methyl]aminobenzoate | 7.3 g, 79% | NC=1C(=C(C(=O)OCC)C=CC1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C23H21N3O2
